US05538960
(E)-20-Guanidinoimino-5β-pregnane-3β,14β-diol (I-bk)
A mixture of 1.00 g of 3β,14β-dihydroxy-5β-pregnane-20-one (Templeton J. F. et al., J. Chem. Soc., Perkin Trans. 1, 1991, 823), 1.20 g of aminoguanidine hydrogencarbonate in 40 ml of dioxane and 10 ml of water acidified at pH 2.5 with 0.01M hydrochloric acid was stirred at room temperature for 3 days. The precipitate was collected by filtration and purified by flash-chromatography (SiO2) using chloroform/methanol/28% ammonium hydroxide 78/20/2; the fractions containing the title compound were collected and evaporated to dryness. The crude product was ground with ethanol to give 0.40 g of the title compound (I-bk) as a white solid.

reactant | 3β,14β-dihydroxy-5β-pregnane-20-one | 1.00 g | O[C@@H]1C[C@H]2CC[C@H]3[C@]4(CC[C@H](C(C)=O)[C@]4(CC[C@@H]3[C@]2(CC1)C)C)O | C21H34O3
reactant | aminoguanidine hydrogencarbonate | 1.20 g | C(O)(O)=O.NNC(=N)N
reactant | hydrochloric acid | 0.01M | Cl | ClH
solvent | dioxane | 40 ml | O1CCOCC1 | C4H8O2
solvent | water | 10 ml | O | H2O
product | (E)-20-Guanidinoimino-5β-pregnane-3β,14β-diol | 0.40 g | N(C(=N)N)\N=C(/C)\[C@H]1CC[C@@]2([C@@H]3CC[C@@H]4C[C@H](CC[C@]4(C)[C@H]3CC[C@]12C)O)O | C22H38N4O2
